US07449486B2
Step E: Preparation of 2-(3-aminopropyl)-N-tert-butoxy-5-(2,5-difluorophenyl)-N-methyl-2-phenyl-1,3,4-thiadiazole-3(2H)-carboxamide:
To a solution of 2-(3-azidopropyl)-N-tert-butoxy-5-(2,5-difluorophenyl)-N-methyl-2-phenyl-1,3,4-thiadiazole-3(2H)-carboxamide (0.032 g, 0.065 mmol) and platinum oxide (15 mg) in methanol (3 mL) was added HCl (5.3 M solution in dioxane, 0.05 mL). After stirring under a hydrogen balloon for 1 hour, the mixture was filtered and the filtrate was concentrated under reduced pressure to provide the product.

reactant | 2-(3-azidopropyl)-N-tert-butoxy-5-(2,5-difluorophenyl)-N-methyl-2-phenyl-1,3,4-thiadiazole-3(2H)-carboxamide | 0.065 mmol, 0.032 g | N(=[N+]=[N-])CCCC1(SC(=NN1C(=O)N(C)OC(C)(C)C)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C23H26F2N6O2S
reactant | HCl | 5.3 M, 0.05 mL | Cl | ClH
solvent | methanol | 3 mL | CO | CH4O
catalyst | platinum oxide | 15 mg | [Pt]=O
product | 2-(3-aminopropyl)-N-tert-butoxy-5-(2,5-difluorophenyl)-N-methyl-2-phenyl-1,3,4-thiadiazole-3(2H)-carboxamide | NCCCC1(SC(=NN1C(=O)N(C)OC(C)(C)C)C1=C(C=CC(=C1)F)F)C1=CC=CC=C1 | C23H28F2N4O2S
